* Z:\mnt\design.r\spice\examples\ADM7155-02.asc
V1 IN 0 2.9
C3 OUT 0 10µ
R1 N003 N005 50K
R2 N005 0 100K
C4 N003 0 1µ
C1 N004 0 1µ
C2 N002 0 1µ
R3 IN N001 100K
R5 OUT 0 18
XU1 N004 OUT N002 0 N005 N003 N001 IN ADM7154_5 Vreg=2.6022 Vref=1.2152
.tran 5m startup
.lib ADM7154_5.sub
.backanno
.end
